US04804394
A stirred mixture composed of 6-nitro-2H-1,4-benzoxazin-3(4H)-one (5.82 g), 37% formaldehyde aqueous solution (28.5 ml) and water (5.4 ml) is refluxed for 2 hours, and cooled. The resultant solid is collected by filtration, washed with water, ethanol, ether and n-hexane successively, and dried to obtain 4-hydroxymethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one (5.19 g).

reactant | 6-nitro-2H-1,4-benzoxazin-3(4H)-one | 5.82 g | [N+](=O)([O-])C=1C=CC2=C(NC(CO2)=O)C1 | C8H6N2O4
reactant | formaldehyde | 28.5 ml | C=O | CH2O
solvent | water | 5.4 ml | O | H2O
product | 4-hydroxymethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 5.19 g | OCN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O | C9H8N2O5
